* source INDEPENDENT STUDY SIMULATION TEST
R_R1         N00268 N00355  2200 TC=0,0 
R_R2         N00268 0  2200 TC=0,0 
V_V1         N00355 0 DC 3.3V  
R_R3         N00795 0  1M TC=0,0 
V_V2         N00519 0 DC 7.5V  
V_V3         N00668 0  
+PULSE 0 3.3V 0 0.01uS 0.01uS 5uS 10uS
E_U1         N00795 0 VALUE {LIMIT(V(N00668,N00268)*1E6,0V,7.5V)}
